US08039484B2
To a solution of methyl [5-(benzyloxy)-3-oxo-2,3-dihydro-1H-inden-1-yl]acetate (1.0 g, 3.22 mmol) and 1-methylcyclohexa-1,4-diene (10 ml, 89 mmol) in ethanol (30 ml) was added 10% Pd/C (0.686 g, 0.644 mmol), and the mix was stirred at 55° C. After 1 hour the mix was filtered through a bed of Celite, washing with ethanol The filtrate was concentrated and the residue was concentrated from ether-hexane to give methyl (5-hydroxy-3-oxo-2,3-dihydro-1H-inden-1-yl)acetate. LC-MS for C12H12O4: calc 220, found 221 [M+H].

reactant | methyl [5-(benzyloxy)-3-oxo-2,3-dihydro-1H-inden-1-yl]acetate | 3.22 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(C2=CC1)CC(=O)OC)=O | C19H18O4
reactant | 1-methylcyclohexa-1,4-diene | 89 mmol, 10 ml | CC1=CCC=CC1 | C7H10
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.644 mmol, 0.686 g | [Pd] | Pd
product | methyl (5-hydroxy-3-oxo-2,3-dihydro-1H-inden-1-yl)acetate | OC=1C=C2C(CC(C2=CC1)CC(=O)OC)=O | C12H12O4
